Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
sepsis
 
Major Surgical or Invasive Procedure:
___: femoral line placement
___: PICC line placement
 
History of Present Illness:
Ms. ___ is a ___ w/ PMH significant for CHF (details not 
known), dementia, seizure disorder s/p MVA in ___ s/p depth 
electrode placement in ___ to refractory seizures s/p right 
temporal lobectomy in ___, transferred from ___ with several 
days of vomiting over the past few weeks. Had two episodes 
yesterday with temperature of 102.7 prompting transfer from her 
SNF to ___ ED. On arrival to ___ she was noted to be tachypneic, 
tachycardic to 120s WBC 21.8, lactate 4.9 -> 3.2. On exam she 
was noted to have a cellulitis on the left leg. She rec'd 
morphine 2 mg @ 720, 1L NS, D51/2NS @ 200. Access was obtained 
24g R hand, 20g L hand. O2sats were low-mid ___ 2L. She received 
vanc (1g), ___ (1g), Penicillin G. Non-contrast CT at ___ 
showed surgically absent GB, mild stranding around ___ portion 
of duodenum possibly consistent w/ acute transverse duodenitis, 
though study was limited by lack of PO contrast. She was 
transferred to ___ for further care.

In arrival to the ED, initial vitals: 99.1 121 96/54 48 94% 4L 
Nasal Cannula. Abdominal US showed collapsing IVC that improved 
with fluids. EKG showed SR at 118 with no ischemic changes. 
Clindamycin was added to vancomycin, meropenem and PCN. A right 
femoral line was placed. CT ___ showed: No acute 
intra-abdominal process. CT RLE was ordered to rule out 
necrotizing fasciitis. Prelim read shows no drainable fluid 
collection or evidence of necrosis. 

Labs were notable for ALT/AST ___ Tbili 0.6. K was 5.5 in a 
hemolyzed specimen. Lactate was 2.5 and rose to 2.8. Initial VBG 
showed 7.39/46/40/29. She received a total of 3L NS.

VBG off femoral line was 7.33/50/40/28.
 
On transfer, vitals were: 103.5 ___ 30 97% RA  

On arrival to the MICU, patient only complains of left leg pain. 


 
Past Medical History:
seizure disorder ___ MVA in ___
depth electrode placement in ___ for refractory seizures
right temporal lobectomy in ___
osteoarthritis
hiatal hernia
diverticulitis
Chronic foley
2L O2 at night
CHF

 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION:
============
GENERAL: Alert, oriented only to self, does not know year, 
month, day or location
HEENT: Sclera anicteric, MM very dry
NECK: supple, JVP difficult to assess given body habitus
LUNGS: Clear to auscultation, crackles at both bases  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: BS+, soft, nontender to palpation
EXT: Warm, well perfused, 1+ pulses. L leg with erythema and 
warmth extending on lateral side of extremity, extending up past 
knee to thigh. No crepitus or fluctuance. Can move extremity, 
sensation intact.
NEURO: Alert and oriented x1, ___ strength in upper extremities, 
moves lower extremities spontaneously. 
 
ON DISCHARGE:
=============
Vitals: 98.2 114/53 100 19 96% on CPAP, intermittently on CPAP
I/O: Incontinence, 910 in IVF +PO
General- AOx1-2, resting in bed
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, thick neck 
Chest: Clear, no rales or rhonchi
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Extremities: wwp, 1+ pulses, L leg erythema extending to the 
knee, 1+ pitting edema to knee bilaterally L>R, improved from 
prior

 
Pertinent Results:
Admission Labs:
___ 05:41PM   TYPE-CENTRAL VE PO2-41* PCO2-54* PH-7.30* 
TOTAL CO2-28 BASE XS-0 INTUBATED-NOT INTUBA
___ 05:41PM   LACTATE-1.5
___ 01:55PM   TYPE-CENTRAL VE PO2-37* PCO2-50* PH-7.33* 
TOTAL CO2-28 BASE XS-0
___ 01:55PM   LACTATE-1.5
___ 09:55AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 09:55AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-LG
___ 09:55AM URINE  RBC-2 WBC-51* BACTERIA-FEW YEAST-NONE 
EPI-2
___ 09:55AM URINE  HYALINE-1*
___ 09:55AM URINE  AMORPH-RARE
___ 09:13AM   TYPE-CENTRAL VE PO2-40* PCO2-50* PH-7.33* 
TOTAL CO2-28 BASE XS-0
___ 09:13AM   O2 SAT-68
___ 09:04AM   WBC-17.0*# RBC-2.98*# HGB-10.9* HCT-32.3* 
MCV-108*# MCH-36.5*# MCHC-33.7 RDW-18.3*
___ 09:04AM   NEUTS-91.0* LYMPHS-4.7* MONOS-4.1 EOS-0.1 
BASOS-0.1
___ 09:04AM   PLT COUNT-192
___ 08:19AM   ___ PO2-103 PCO2-38 PH-7.44 TOTAL CO2-27 
BASE XS-1
___ 08:19AM   O2 SAT-94
___ 07:45AM   ___ PO2-40* PCO2-46* PH-7.39 TOTAL 
CO2-29 BASE XS-1 INTUBATED-NOT INTUBA
___ 07:45AM   LACTATE-2.8*
___ 07:45AM   O2 SAT-QNS,UNABLE
___ 07:39AM   LACTATE-2.5*
___ 07:39AM   LACTATE-2.5*
___ 07:30AM   GLUCOSE-166* UREA N-29* CREAT-1.0 SODIUM-131* 
POTASSIUM-5.5* CHLORIDE-92* TOTAL CO2-24 ANION GAP-21*
___ 07:30AM   estGFR-Using this
___ 07:30AM   ALT(SGPT)-41* AST(SGOT)-61* ALK PHOS-99 TOT 
BILI-0.6
___ 07:30AM   ALBUMIN-3.8 CALCIUM-8.2* PHOSPHATE-3.4 
MAGNESIUM-1.7

IMAGING:
___ ECHO
Conclusions  
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF = 65%). Doppler parameters are 
most consistent with Grade I (mild) left ventricular diastolic 
dysfunction. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.   

___
LLE US
IMPRESSION:  
  
Technically limited study. No evidence of deep venous thrombosis 
in the left lower extremity veins. 

___ ECHO:
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF = 65%). Doppler parameters are 
most consistent with Grade I (mild) left ventricular diastolic 
dysfunction. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.

___ CT ABDOMEN/PELVIS:
IMPRESSION: 
1. No acute intra-abdominal process. 
2. Status post cholecystectomy with dilated common bile duct. No 
radiopaque 
stones seen within the common bile duct. 
3. Diverticulosis without evidence of diverticulitis. 
4. Small hiatal hernia. 

___ CT LEFT LOWER EXTREMITY:
IMPRESSION:  
1. No CT evidence of necrotizing fasciitis in the left thigh. 
2. Minimal lateral soft tissue swelling and skin thickening. No 
drainable 
fluid collection. 

ON DISCHARGE:
==============
___ 07:20AM BLOOD WBC-5.2 RBC-2.73* Hgb-9.5* Hct-28.8* 
MCV-105* MCH-34.7* MCHC-32.9 RDW-17.8* Plt ___
___ 07:20AM BLOOD Glucose-120* UreaN-8 Creat-0.4 Na-140 
K-3.8 Cl-105 HCO3-28 AnGap-11
___ 05:25AM BLOOD ALT-25 AST-22 AlkPhos-75 TotBili-0.3
___ 05:25AM BLOOD Calcium-8.3* Phos-2.3* Mg-2.4
 
Brief Hospital Course:
Ms. ___ is a ___ w/ ___ significant for CHF, seizure 
disorder s/p MVA in ___ s/p depth electrode placement in ___ to refractory seizures s/p right temporal lobectomy in ___, 
transferred from ___ with several days of vomiting who was found 
to be septic.

ACTIVE MEDICAL ISSUES:
# Sepsis: Pt presented meeting SIRS criteria by being 
tachycardic, tachypneic with WBC count of 17 91% neutrophils, 
and febrile to 102.7. BCx from ___ grew pseudomonnas sp., and 
urine culture grew with e. coli and proteus. She was fluid 
responsive and lactate improved with 4L normal saline.  She 
received on vancomycin and zosyn with improvement. Clindamycin 
was initially started but discontinued due to low suspicion for 
necrotizing fasciitis. Pt was seen by Infectious disease who 
recommended continuing vanc until ___ and cefepime until ___. 
Source of pseudomonal bactermia remained unclear but pt's blood 
cultures at ___ remained no growth and TTE was negative for 
vegetations.

# Cellulitis: LLE cellulitis noted at OSH. Pt had received 
vancomycin, meropenem, PCN at ___. Clindamycin added at ___ in 
the event of necrotizing fasciitis. Patient did have hardware in 
left leg, though CT does not show evidence of involvement. 
Cellulitis improved on discharge.

# Hyponatremia: Na 131 on admission, likely hypovolemic 
hyponatremia in the setting of sepsis. Hyponatremia was resolved 
on discharge.

# Anemia: Pt noted to have downtrended hematocrit. There was no 
evidence of hemolysis. Iron studies indicates anemia of chronic 
disease.  She had one episode of brown, guaic positive stool 
although subsequent stools were guiac negative. After initial 
decline which was most likely hemodilutional in setting of 
receiving fluids while septic, her hb remained stable and was 
9.5 on discharge.

# CHF: Unclear history. Pt had echo which showed preserved 
ejection fraction with diastolic dysfunction. Respiratory status 
remained stable during ICU stay. Her spironolactone was 
restarted while on the floor which she tolerated well. 

# OSA: Patient was maintained on nocturnal CPAP. She was noted 
to desat with oxygen saturations in ___ while sleeping if not 
using CPAP.

# Seizure disorder: Secondary to MVA in ___. Pt is status post 
R temporal lobectomy. She was continued on home AEDs: keppra 500 
TID, oxcarbazepine 600 BID, phenytoin 300 BID without 
difficulty.

TRANSITIONAL ISSUES:
[] Pt to complete 10 day total course of IV vanc to finish on 
___
[] Pt to complete 14 day course of IV cefepime to finish on 
___
[] Please avoid foley catheters
[] Pt with one isolated episode of guiac positive stool which 
was grossly brown. ___ consider outpatient colonoscopy
[] Blood cultures from ___ and ___ pending
[] Please encourage CPAP use at night
[] Please remove PICC after antibiotics are finished
[] Pt's home potassium held given she did not require repletion 
during the end of her hospital stay. She should have her chem-7 
rechecked in one week to monitor her potassium and restart 
repletion if necessary
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LeVETiracetam 500 mg PO TID 
2. Oxcarbazepine 600 mg PO BID 
3. FoLIC Acid 1 mg PO BID 
4. Spironolactone 25 mg PO BID 
5. Duloxetine 30 mg PO BID 
6. Cyanocobalamin 1000 mcg IM/SC QMONTH 
7. Omeprazole 20 mg PO DAILY 
8. TraZODone 125 mg PO HS 
9. Lactulose 15 mL PO 3X/WEEK (___) 
10. Lactulose 30 mL PO Q4H:PRN constipation 
11. LOPERamide 2 mg PO Q6H:PRN diarrhea 
12. Prochlorperazine 25 mg PR Q12H:PRN nausea 
13. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
14. DiphenhydrAMINE 25 mg PO DAILY:PRN pruritis 
15. Prochlorperazine 10 mg PO Q6H:PRN nausea 
16. Ferrous Sulfate 325 mg PO DAILY 
17. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
18. Bisacodyl ___AILY:PRN constipation 
19. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
20. Mylanta 30 mL oral q6h: prn stomach upset 
21. Vitamin D 50,000 UNIT PO 2X/MONTH 
22. Sodium Chloride Nasal ___ SPRY NU TID:PRN dry nasal passages 

23. Calcium Carbonate 500 mg PO TID 
24. Senna 17.2 mg PO DAILY 
25. Loratadine 10 mg PO DAILY 
26. Guaifenesin 10 mL PO Q6H:PRN cough 
27. Phenytoin Sodium Extended 300 mg PO BID 
28. Multivitamins 1 TAB PO DAILY 
29. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q12H:PRN pain 

30. Fentanyl Patch 12 mcg/h TD Q72H 
31. Magnesium Oxide 500 mg PO DAILY 
32. Metolazone 2.5 mg PO 2X/WEEK (MO,FR) 
33. Potassium Chloride 60 mEq PO BID 
34. Potassium Chloride 40 mEq PO DAILY 
35. Polyethylene Glycol 17 g PO 3X/WEEK (___) 

 
Discharge Medications:
1. Vitamin D 50,000 UNIT PO 2X/MONTH 
2. Cyanocobalamin 1000 mcg IM/SC QMONTH 
3. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
4. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB 
5. Bisacodyl ___AILY:PRN constipation 
6. Calcium Carbonate 500 mg PO TID 
7. Duloxetine 30 mg PO BID 
8. Fentanyl Patch 12 mcg/h TD Q72H 
9. Ferrous Sulfate 325 mg PO DAILY 
10. FoLIC Acid 1 mg PO BID 
11. Guaifenesin 10 mL PO Q6H:PRN cough 
12. LeVETiracetam 500 mg PO TID 
13. Loratadine 10 mg PO DAILY 
14. Magnesium Oxide 500 mg PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Omeprazole 20 mg PO DAILY 
17. Oxcarbazepine 600 mg PO BID 
18. Phenytoin Sodium Extended 300 mg PO BID 
19. Senna 17.2 mg PO DAILY 
20. Sodium Chloride Nasal ___ SPRY NU TID:PRN dry nasal passages 

21. Spironolactone 25 mg PO BID 
22. CefePIME 2 g IV Q8H 
take until ___. Sodium Chloride 0.9%  Flush 20 mL IV ASDIR For PICC 
insertion  
24. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
25. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
26. Vancomycin 750 mg IV Q 12H 
take until ___. Polyethylene Glycol 17 g PO 3X/WEEK (___) 
28. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
29. Metolazone 2.5 mg PO 2X/WEEK (MO,FR) 
30. Prochlorperazine 10 mg PO Q6H:PRN nausea 
31. Prochlorperazine 25 mg PR Q12H:PRN nausea 
32. Lactulose 15 mL PO 3X/WEEK (___) 
33. Lactulose 30 mL PO Q4H:PRN constipation 
34. Mylanta 30 mL oral q6h: prn stomach upset 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary
sepsis from a urinary source
cellulitis

Secondary
diastolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for a urinary tract infection that had 
spread to your blood and an infection in your skin. You were 
given antibiotics and improved. You will continue to finish a 
course of antibiotics at your rehab facility. We wish you the 
best of luck.
 
Followup Instructions:
___